US07442702B2
3-(3-{[Benzenesulfonyl-(2,3-dihydro-benzofuran-5-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester.
The title compound of Step B was prepared following the method described in Step A of Example 1 from 3-(3-{[(2,3-dihydro-benzofuran-5-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester, prepared in Step A of Example 12w, and benzenesulfonyl chloride using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 7.82 (m, 2H), 7.58-7.47 (m, 3H), 7.10 (m, 1H), 7.00 (d, 1H), 6.89 (s, 1H), 6.85 (d, 1H), 6.74 (s, 1H), 6.68 (d, 1H), 6.56 (d, 1H), 4.50 (t, 2H), 4.26 (s, 2H), 4.21 (s, 2H), 3.65 (s, 3H), 3.06 (t, 2H), 2.78 (t, 2H), 2.47 (t, 2H).

reactant | 3-(3-{[(2,3-dihydro-benzofuran-5-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC=1C=CC2=C(CCO2)C1)=O | C20H23NO3
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[Benzenesulfonyl-(2,3-dihydro-benzofuran-5-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(CC=1C=CC2=C(CCO2)C1)S(=O)(=O)C1=CC=CC=C1)=O | C26H27NO5S
